US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with 3-amino-1-(tert-butoxycarbonyl)piperidine-3-carboxylic acid (Isomer 1) using an analogous method to that described for the equivalent step in Example 1 to give 1-(tert-butoxycarbonyl)-3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]piperidine-3-carboxylic acid (Isomer 1); 1H NMR Spectrum: (DMSO d6+d4 AcOH) 1.27 (s, 9H); 1.46 (m, 1H); 1.92 (m, 3H); 3.08 (m, 1H); 3.52 (m, 2H); 3.72 (m, 2H); 3.86 (d, 1H); 3.96 (s, 3H); 7.19 (s, 1H); 7.28 (dt, 1H); 7.48 (t, 1H); 7.56 (m, 1H); 8.31 (s, 1H); 8.43 (s, 1H). Mass Spectrum: (M+H)+ 560.5.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | 3-amino-1-(tert-butoxycarbonyl)piperidine-3-carboxylic acid | NC1(CN(CCC1)C(=O)OC(C)(C)C)C(=O)O | C11H20N2O4
product | 1-(tert-butoxycarbonyl)-3-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]piperidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CCC1)(C(=O)O)NCC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C27H31ClFN5O5
